US08377957B2
tert-Butyl 3-{[(2-chloro-3-nitroquinolin-4-yl)amino]methyl}benzylcarbamate (19.64 g, 44.34 mmol), 5% platinum on carbon (2.0 g), and acetonitrile (325 mL) were added to a Parr vessel and shaken under hydrogen pressure (30 psi, 2.1×105 Pa) overnight. The mixture was filtered, and the filtrate was concentrated under reduced pressure and further dried under high vacuum for 1.5 hours to provide 17.03 g of tert-butyl 3-{[(3-amino-2-chloroquinolin-4-yl)amino]methyl}benzylcarbamate as a thick, brown oil.

reactant | tert-Butyl 3-{[(2-chloro-3-nitroquinolin-4-yl)amino]methyl}benzylcarbamate | 44.34 mmol, 19.64 g | ClC1=NC2=CC=CC=C2C(=C1[N+](=O)[O-])NCC=1C=C(CNC(OC(C)(C)C)=O)C=CC1 | C22H23ClN4O4
catalyst | platinum on carbon | 2.0 g | [Pt] | Pt
solvent | acetonitrile | 325 mL | C(C)#N | C2H3N
product | tert-butyl 3-{[(3-amino-2-chloroquinolin-4-yl)amino]methyl}benzylcarbamate | 17.03 g | NC=1C(=NC2=CC=CC=C2C1NCC=1C=C(CNC(OC(C)(C)C)=O)C=CC1)Cl | C22H25ClN4O2
